*  File     : ACST.LIB 
*  Revision : 2            
*  Date     : January 14th 2010       
***********************************************************************
* 						ACST PSpice Models             			      *
***********************************************************************
*	This ACST model simulates:
*	-Igt (the same for all quadrants) maximum of the specification
*   -IL positive and negative maximum of specification
*   -IH positive and negative typical values
*   -VCL positive and negative typical values (behavior overvoltage protection)
*   -IBO positive and negative typical values (behavior overvoltage protection)
*   -(di/dt)c and (dV/dt)c parameters are simulated if those constraints 
*     exceed the specified limits.
*   -Power dissipation is realistic
*   
*
*   All these parameters are constant, and don't vary neither 
*   with temperature nor other parameters.
*    
*   For a correct ACST behavior, the "Maximum step size" must be below 
*   or equal 20µs.
*
*
.SUBCKT ACST A G K PARAMS:
+ IBO_pos=10m
+ IBO_neg=9m
+ IGT=25m
+ IH_pos=20m
+ IH_neg=20m
+ IL_pos=50m
+ IL_neg=40m 
+ RGKINT=140
+ Rd=0.1    
+ BVP=1440
+ BVN=1500

* IBO_pos : positive breakover current typical 
* IBO_neg : negative breakover current typical
* IGT     : gate trigger current maximum
* IH_pos  : positive Holding current maximum 
* IH_neg  : negative Holding current maximum
* IL_pos  : positive Latching curent maximum
* IL_neg  : negative Latching curent maximum
* RGKINT  : internal resistor between gate and cathode typical
* Rd      : Dynamic on-state resistance specified
* BVP     : positive clamping voltage typical
* BVN     : negative clamping voltage typical
 
E_IF4IF1_22         N1011499 0 VALUE 
+ {IF((I(V_IT)>V(INIH_POS))|(I(V_IT)<V(INIH_NEG)),1,0)} 
F_ABMI1         0 DIDT V_IT 1
V_I_osc         N1010349 N1010315 DC 0 AC 0 
D_Dak_Q2         N909973 K DAK 
R_Rfloat         G K  10G  
V_ID         N910355 N910301 DC 0 AC 0 
L_L_didt         DIDT 0  1mH  
R_R_osc         N1010349 N1011183  300  
C_CIHIL         CMDILIH 0  1n IC=0 
R_R1         N910043 N1209800  600k  
D_Doff1         A N910355 DOFF1_T 
R_Rton         N1206309 COMMANDE  0.5  
E_NON_neg         N1011711 0 VALUE {IF(V(CMDILIH)>0.5,0,1)}
R_RIHIL         N1011449 CMDILIH  100  
C_C_ibo_neg         CMDIBO_NEG 0  1n IC=0 
E_IF5IF3_5         N1011449 0 VALUE {IF(
+  (V(N1011587)*V(N1011499)+V(N1011499)*(1-V(N1011587))*(V(CMDILIH)) )>0.5,1,0)}
C_Cparasitic1         N1209800 K  200p  
D_Doff2         K N910301 DOFF2_T 
D_DTON         CONTROL N1206309 Dcontrol 
F_ABMI2         0 DIDT V_ID 1
E_osc_neg         N1011245 0 VALUE 
+ {IF(((I(V_IT)+(2*V(DIDT)*20m))>-IH_neg)&(I(V_IT)<-IH_neg/2),1,0)}
R_R_ibo_pos         N1010953 CMDIBO_POS  100  
E_IF1IF1_10         CMDIG 0 VALUE 
+ {IF(I(V_IG)<-IGT,1,IF((I(V_IG)>IGT)&(V(A)>0),1,0))}
V_IG         N909169 K DC 0 AC 0 
E_IF29         INIH_NEG 0 VALUE {IF(-IH_neg<-IBO_neg,-IBO_neg*0.85,-IH_neg)}
X_S1    COMMANDE 0 N910043 N909973 ACST_S1 
E_IF7         N1010753 0 VALUE {IF(V(CMDILIH)>0.5,0,1)}
E_OSC         N1011183 0 VALUE 
+ {IF(I(V_I_osc)<0,IF(V(N1010315)<0.25,1+V(N1010241),0-V(N1010241)),IF(V(N1010315)>0.75,0-V(N1010241),1+V(N1010241)))}
C_Ccommande         COMMANDE 0  1u  
D_DGKd         G N909169 DGK 
E_RS1         N1010953 0 VALUE {IF(
+  (V(N1012037)+(1-V(N1012037))*V(N1010753)*V(CMDIBO_POS) )>0.5,1,0)}
D_Dak_Q3         K N909973 DAK 
R_Rcommande         CONTROL COMMANDE  30  
E_IF23         N1012037 0 VALUE {IF(I(V_ID)>IBO_pos,1,0)}
E_RS2         N1011827 0 VALUE {IF(
+  (V(N1011961)+(1-V(N1011961))*V(N1011711)*V(CMDIBO_NEG) )>0.5,1,0)}
E_porte_osc         N1010241 0 VALUE 
+ {IF((V(N1011355)>0.5)|(V(N1011245)>0.5),15,0)}
D_DGKr         N909169 G DGK 
C_C_ibo_pos         CMDIBO_POS 0  1n IC=0 
E_osc_pos         N1011355 0 VALUE 
+ {IF(((I(V_IT)+(2*V(DIDT)*20m))<IH_pos)&(I(V_IT)>IH_pos/2),1,0)}
R_R_ibo_neg         N1011827 CMDIBO_NEG  100  
E_IF6         INIH_POS 0 VALUE {IF(IH_pos>IBO_pos,IBO_pos*0.85,IH_pos)}
E_IF16         CONTROL 0 VALUE {IF((V(CMDIG)>0.5) | (V(CMDILIH)>0.5) |
+  (V(CMDIBO_POS)>0.5) | (V(CMDIBO_NEG)>0.5),200,0)}
E_IF3IF1_18         N1011587 0 VALUE {IF((I(V_IT)>IL_pos)|(I(V_IT)<-IL_neg),1,0
+  )}                     
R_Rgk         G N909169  {RGKINT} 
V_IT         A N910043 DC 0 AC 0 
C_C_osc         N1010315 0  100n IC=0 
E_ID_neg         N1011961 0 VALUE {IF(I(V_ID)<-IBO_neg,1,0)}
.ENDS
*
****************
* Diodes Model *
****************     
.MODEL Dcontrol D (Is=1e-14 Cjo=.1pF Rs=.1)
.MODEL DGK D (IS=1e-6 N=3.7 RS=2)
.MODEL DAK D (IS=5e-16 RS={Rd})
.MODEL DOFF1_T D (BV={BVN})
.MODEL DOFF2_T D (BV={BVP})
****************
* Switch Model *
****************  
.MODEL Smain_T VSWITCH Roff=10Meg Ron=1m Voff=1 Von=195
*
*$
.subckt ACST_S1 1 2 3 4   
S_S1         3 4 1 2 Smain_T
RS_S1        1 2 1G    
.ends ACST_S1 


*********************************************************************
* 							ACST								    *
*********************************************************************
*
*$
.subckt ACST2-8S A G K
X1 A G K ACST params:
+ IBO_pos=9m
+ IBO_neg=5m
+ IGT=10m
+ IH_pos=10m
+ IH_neg=10m
+ IL_pos=35m
+ IL_neg=25m 
+ RGKINT=210
+ Rd=0.25    
+ BVP=980
+ BVN=1150
* 2010 / ST / Rev 0
.ends
*$   
.SUBCKT ACST410-8 A G K
X1 A G K ACST params:
+ IBO_pos=6m
+ IBO_neg=7m
+ IGT=10m
+ IH_pos=20m
+ IH_neg=20m
+ IL_pos=40m
+ IL_neg=40m 
+ RGKINT=210
+ Rd=0.11    
+ BVP=980
+ BVN=1150
* 2010 / ST / Rev 0
.ends
*$ 
.SUBCKT ACST435-8 A G K 
X1 A G K ACST params:
+ IBO_pos=8m
+ IBO_neg=10m
+ IGT=35m
+ IH_pos=25m
+ IH_neg=25m
+ IL_pos=60m
+ IL_neg=60m  
+ RGKINT=80
+ Rd=0.11    
+ BVP=980
+ BVN=1150
* 2010 / ST / Rev 0
.ends
*$
.SUBCKT ACST610-8 A G K
X1 A G K ACST params:
+ IBO_pos=9m
+ IBO_neg=10m
+ IGT=10m
+ IH_pos=25m
+ IH_neg=25m
+ IL_pos=30m
+ IL_neg=30m  
+ RGKINT=210
+ Rd=0.08    
+ BVP=980
+ BVN=1150
* 2010 / ST / Rev 0
.ends
*$
.SUBCKT ACST830-8 A G K
X1 A G K ACST params:
+ IBO_pos=6m
+ IBO_neg=10m
+ IGT=30m
+ IH_pos=30m
+ IH_neg=30m
+ IL_pos=50m
+ IL_neg=50m  
+ RGKINT=80
+ Rd=0.05    
+ BVP=980
+ BVN=1150
* 2010 / ST / Rev 0
.ends
*$
.subckt ACST10-7S A G K
X1 A G K ACST params:
+ IBO_pos=10m
+ IBO_neg=5m
+ IGT=10m
+ IH_pos=30m
+ IH_neg=30m
+ IL_pos=50m
+ IL_neg=50m 
+ RGKINT=210
+ Rd=0.035    
+ BVP=980
+ BVN=1150
* 2010 / ST / Rev 0
.ends
*$
.subckt ACST10-7C A G K
X1 A G K ACST params:
+ IBO_pos=12m
+ IBO_neg=12m
+ IGT=35m
+ IH_pos=50m
+ IH_neg=50m
+ IL_pos=70m
+ IL_neg=70m 
+ RGKINT=80
+ Rd=0.035    
+ BVP=980
+ BVN=1150
* 2010 / ST / Rev 0
.ends
*$
.subckt ACST12-7S A G K
X1 A G K ACST params:
+ IBO_pos=10m
+ IBO_neg=5m
+ IGT=10m
+ IH_pos=30m
+ IH_neg=30m
+ IL_pos=50m
+ IL_neg=50m 
+ RGKINT=210
+ Rd=0.03    
+ BVP=980
+ BVN=1150
* 2010 / ST / Rev 0
.ends
*$
.subckt ACST12-7C A G K
X1 A G K ACST params:
+ IBO_pos=12m
+ IBO_neg=12m
+ IGT=35m
+ IH_pos=50m
+ IH_neg=50m
+ IL_pos=70m
+ IL_neg=70m 
+ RGKINT=80
+ Rd=0.03    
+ BVP=980
+ BVN=1150
* 2010 / ST / Rev 0
.ends
*$
