* WARNING : please consider following remarks before usage
*
* 1) All models are a tradeoff between accuracy and complexity (ie. simulation 
*    time).
* 2) Macromodels are not a substitute to breadboarding, they rather confirm the
*    validity of a design approach and help to select surrounding component values.
*
* 3) A macromodel emulates the NOMINAL performance of a TYPICAL device within 
*    SPECIFIED OPERATING CONDITIONS (ie. temperature, supply voltage, etc.).
*    Thus the macromodel is often not as exhaustive as the datasheet, its goal
*    is to illustrate the main parameters of the product.
*
* 4) Data issued from macromodels used outside of its specified conditions
*    (Vcc, Temperature, etc) or even worse: outside of the device operating 
*    conditions (Vcc, Vicm, etc) are not reliable in any way.


**CONNECTIONS:
*1 INVERTING INPUT
*2 NON INVERTING INPUT
*3 OUTPUT
*4 POSITIVE POWER SUPPLY
*5 NEGATIVE POWER SUPPLY
.SUBCKT TSH70 1 2 3 4 5
******************************************************************
.MODEL MDTH D IS=1E-8 KF=2.664234E-16 CJO=10F
*INPUT STAGE
CIP 2 5 0.2E-12
CIN 1 5 0.2E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 7
RIN 15 16 7
RIS 11 15 400
DIP 11 120 MDTH 400E-12
DIN 15 140 MDTH 400E-12
VOFP 12 13 DC 100e-3
VOFN 13 14 DC 0
RDGP 120 12 312
RDGN 140 14 312
CDG 120 140 2P
IPOL 13 5 780e-6
CPS 11 15 0.3E-9
DINN 17 13 MDTH 400E-12
VIN 17 5 0.25
DINR 15 18 MDTH 400E-12
VIP 4 18 2
FCP 4 5 VOFP 9
FCN 5 4 VOFN 9
FIBP 2 5 VOFP 15e-3
FIBN 5 1 VOFN 15e-3
**GM1 STAGE ******************************
FGM1P 119 5 VOFP 1
FG1N 119 5 VOFN 0.5
RAP 119 4 4.93E5
RAN 119 5 5E5
**GM2 STAGE ******************************
G2P 19 5 119 5 161E-3
G2N 19 5 119 4 161E-3
R2P 19 4 2.5E7
R2N 19 5 2.5E7
******************************************
VINT1 500 0 3
GCONVP 500 501 119 4 19.38
VP 501 0 0
GCONVN 500 502 119 5 19.38
VN 502 0 0
*****************************************
** ORIENTATION ISINK ISOURCE
VINT2 503 0 3
FCOPY 503 504 VOUT 1
DCOPYP 504 505 MDTH 400E-9
VCOPYP 505 0 0
DCOPYN 506 504 MDTH 400E-9
VCOPYN 0 506 0
******************************************
F2PP 19 5 POLY(2) VCOPYP VP 0 0 0 0 0.5
F2PN 19 5 POLY(2) VCOPYP VN 0 0 0 0 0.5
F2NP 19 5 POLY(2) VCOPYN VP 0 0 0 0 1.75
F2NN 19 5 POLY(2) VCOPYN VN 0 0 0 0 1.75
***COMPENSATION**************************
CC 19 119 4.5P
******************************************
****OUTPUT********************************
DOPM 19 22 MDTH 400E-12
DONM 21 19 MDTH 400E-12
HOPM 22 28 VOUT 9.36E+03
VIPM 28 4 500
HONM 21 27 VOUT 9.90E+03
VINM 5 27 500
VOUT 3 23 0
ROUT 23 19 10
COUT 3 5 15E-12
DOP 19 25 MDTH 400E-12
VOP 4 25 1.35
DON 24 19 MDTH 400E-12
VON 24 5 1.2
.ENDS